US07423030B2
25.3. 1-Chloro-4-cyclopentyl-7-methoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-cyclopentyl-7-methoxy-2H-phthalazin-1-one with phosphoryl chloride. The product is too impure for a description by NMR. It is used as obtained in the following amination reaction.

reactant | 4-cyclopentyl-7-methoxy-2H-phthalazin-1-one | C1(CCCC1)C1=NNC(C2=CC(=CC=C12)OC)=O | C14H16N2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-4-cyclopentyl-7-methoxyphthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)C1CCCC1 | C14H15ClN2O
